US07470689B2
b) Diethyl 2-[2-(2-ethylaminopyrimidin-4-yl)-2-oxo-ethyl]-2-hydroxy -malonate
A mixture consisting of 1.9 g of 1-(2-ethylaminopyrimidin-4-yl)ethanone and 1.86 ml of diethyl ketomalonate is heated at 110° C. for 18 hours. The mixture is purified by column chromatography (silica gel, mobile phase: methylene chloride:methanol=98:2).

reactant | 1-(2-ethylaminopyrimidin-4-yl)ethanone | 1.9 g | C(C)NC1=NC=CC(=N1)C(C)=O | C8H11N3O
reactant | diethyl ketomalonate | 1.86 ml | O=C(C(=O)OCC)C(=O)OCC | C7H10O5
product | Diethyl 2-[2-(2-ethylaminopyrimidin-4-yl)-2-oxo-ethyl]-2-hydroxy -malonate | C(C)NC1=NC=CC(=N1)C(CC(C(=O)OCC)(C(=O)OCC)O)=O | C15H21N3O6
